US07247638B2
14.2 2,8-Dipyridin-4-yl-6,7,8,9-tetrahydro-4H-pyrimido[1,2-a]pyrimidin-4-one
A suspension containing 1.0 g (4.01 mmoles) of 6-(4-pyridinyl)-1,4,5,6-tetrahydro-2-pyrimidinamine dihydrochloride in 30 ml of ethanol was treated with 1.94 g (14.05 mmoles) of potassium carbonate and allowed to stir for 5 min. 1.0 g (4.01 mmoles) of ethyl 3-(pyridin-4-yl)-3-oxopropionate were added and the resulting mixture was heated at reflux temperature for 18 h. The cooled solution was evaporated to remove solvent and the residue was dissolved in water and extracted with dichloromethane. The organic extracts were washed with a saturated solution of aqueous sodium chloride, dried and the solvent evaporated under reduced pressure. The crude product thus obtained was purified using silica gel chromatography eluting with a gradient of dichloromethane/methanol/concentrated aqueous ammonia solution in the proportions 95/5/0.5 to 80/20/2. 0.26 g (21%) of pure product was obtained. Mp: 268-270° C.

reactant | 6-(4-pyridinyl)-1,4,5,6-tetrahydro-2-pyrimidinamine dihydrochloride | 4.01 mmoles, 1.0 g | Cl.Cl.N1=CC=C(C=C1)C1CCN=C(N1)N
reactant | potassium carbonate | 14.05 mmoles, 1.94 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl 3-(pyridin-4-yl)-3-oxopropionate | 4.01 mmoles, 1.0 g | N1=CC=C(C=C1)C(CC(=O)OCC)=O | C10H11NO3
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 2,8-Dipyridin-4-yl-6,7,8,9-tetrahydro-4H-pyrimido[1,2-a]pyrimidin-4-one | 0.26 g, 21% | N1=CC=C(C=C1)C=1N=C2N(C(C1)=O)CCC(N2)C2=CC=NC=C2 | C17H15N5O
